US07872014B2
To a solution of 2-{5-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]phenyl}-3-oxobutanenitrile (5.7 g, 18.1 mmol) in ethanol (60 mL) was added t-butylhydrazine hydrochloride (6.8 g, 54 mmol). The mixture was stirred for 2 h at 75° C. before cooling to rt and stirring for an additional 14 h. The volatile materials were removed in vacuo. To the residue was added water, and the resulting aqueous mixture was extracted with ethyl acetate 3 times. The organic extracts were combined and washed with 1 N HCl (aq) followed by aqueous NaHCO3 (sat). The organics were then dried over magnesium sulfate, filtered, and concentrated in vacuo to provide 1-(1,1-dimethylethyl)-4-{5-fluoro-2-(methyloxy)-3-[{phenylmethyl)oxy]phenyl}-3-methyl-1H-pyrazol-5-amine as a pale yellow syrup (6.81 g, 17.8 mmol, 98% yield). 1H NMR (400 MHz, CDCl3): δ 7.45-7.32 (m, 5H), 6.60 (dd, 1H), 6.53 (dd, 1H), 5.10 (s, 2H), 3.91 (br s, 2H), 3.55 (s, 3H), 2.20 (s, 3H), 1.67 (s, 9H); MS (EI) for C22H26FN3O2: 384 (MH+).

reactant | 2-{5-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]phenyl}-3-oxobutanenitrile | 18.1 mmol, 5.7 g | FC=1C=C(C(=C(C1)C(C#N)C(C)=O)OC)OCC1=CC=CC=C1 | C18H16FNO3
reactant | t-butylhydrazine hydrochloride | 54 mmol, 6.8 g | Cl.C(C)(C)(C)NN
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 1-(1,1-dimethylethyl)-4-{5-fluoro-2-(methyloxy)-3-[{phenylmethyl)oxy]phenyl}-3-methyl-1H-pyrazol-5-amine | 17.8 mmol, 6.81 g, 98% yield | CC(C)(C)N1N=C(C(=C1N)C1=C(C(=CC(=C1)F)OCC1=CC=CC=C1)OC)C | C22H26FN3O2
